US08377957B2
4-Chloro-1-[(1S)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol (4.0 g, 12 mmol) and ammonia (65 mL of a 7 N solution in methanol) were added to a high-pressure vessel, which was sealed and heated in an oven at 135° C. over two nights. The volatiles were removed under reduced pressure. The crude product was purified twice by automated flash chromatography (silica cartridge, eluting with aqueous ammonium hydroxide:methanol:dichloromethane in a gradient from 0:0:100 to 0.2:3.8:96). The chromatographed product was washed with acetonitrile and diethyl ether several times and dried in a vacuum oven to provide 260 mg of 4-amino-1-[(1S)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol as an off-white solid, mp 292-295° C.

reactant | 4-Chloro-1-[(1S)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol | 12 mmol, 4.0 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2[C@@H](C)C2=CC=CC=C2)O | C18H14ClN3O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-1-[(1S)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol | 260 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2[C@@H](C)C2=CC=CC=C2)O | C18H16N4O
